US04639468
Synthesis of 2-(N-n-hexyl-N-methylamino)acetamide
In a flask of 100 ml, 7.9 gr (0.05 mol) of 2-(n-hexylamino)acetamide and 7.8 gr (0.055 mol) of methyl iodide were mixed in 50 ml of methanol. This solution was left for 1 month at room temperature, then evaporated. The residue was dissolved in a 1N NaOH solution until basic pH and extracted with ether. The ether phase was dried on MgSO4 and evaporated. The solid as obtained was chromatographed on a column of SiO2 by eluting with a benzene-methanol mixture (7:3). The desired product was thus obtained.

reactant | 2-(n-hexylamino)acetamide | 0.05 mol, 100 ml, 7.9 gr | C(CCCCC)NCC(=O)N | C8H18N2O
reactant | methyl iodide | 0.055 mol, 7.8 gr | CI | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | 2-(N-n-hexyl-N-methylamino)acetamide | C(CCCCC)N(C)CC(=O)N | C9H20N2O
